US04870095
A mixture of 10 g (0.033 mol) of ethyl 3,4-diphenyl-1H-pyrazole-1-acetate, 6.9 mL (0.049 mol) of diethylaminoethylamine and 39 mL of diisopropylethylamine was stirred on a steam bath under nitrogen for 18 hours. The reaction was stripped, the residue taken up in about 300 mL of ether and washed twice with water. The ether layer was extracted twice with a total of 150 mL of cold water containing 20 mL of 10% HCl. The combined water extracts were washed once with ether, colled, made basic with solid sodium carbonate, extracted several times with methylene dichloride, dried over sodium sulphate, treated with decolorizing carbon, filtered and stripped. The oily red residue was crystallized from ether to yield 6.86 g of N-[2-diethylamino)ethyl]-3,4-diphenyl-1H-pyrazole-1-acetamide, mp 80°-83° C.

reactant | ethyl 3,4-diphenyl-1H-pyrazole-1-acetate | 0.033 mol, 10 g | C1(=CC=CC=C1)C1=NN(C=C1C1=CC=CC=C1)CC(=O)OCC | C19H18N2O2
reactant | diethylaminoethylamine | 0.049 mol, 6.9 mL | C(C)N(CC)CCN | C6H16N2
reactant | diisopropylethylamine | 39 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ether | about 300 mL | CCOCC | C4H10O
product | 3,4-diphenyl-1H-pyrazole-1-acetamide | C1(=CC=CC=C1)C1=NN(C=C1C1=CC=CC=C1)CC(=O)N | C17H15N3O
